US09065061B2
Step 4: Synthesis of 3,4-diphenyl-5-propyl-4H-1,2,4-triazole (abbreviation: HPrptz)
Next, 5.40 g of N-[1-(ethylsulfanyl)butylidene]aniline, 3.19 g of benzoylhydrazine, and 30 mL of 1-butanol were put in a 100 mL three-neck flask and heated and stirred at 130° C. for 12 hours. After the stirring, butanol was distilled off under a reduced pressure to give a brown solid. This solid was washed with ethyl acetate, and subjected to suction filtration to give a solid. The given solid was purified by silica gel column chromatography. As developing solvents, first, hexane:ethyl acetate=1:9 was used, and then ethyl acetate was used. The resulting fraction was concentrated to give a solid. This solid was recrystallized from a mixed solvent of hexane and ethyl acetate, so that 3,4-diphenyl-5-propyl-4H-1,2,4-triazole (abbreviation: HPrptz) was prepared (a white solid, yield: 28%). The synthetic scheme of Step 4 is shown by (d-7).

reactant | N-[1-(ethylsulfanyl)butylidene]aniline | 5.40 g | C(C)SC(CCC)=NC1=CC=CC=C1 | C12H17NS
reactant | benzoylhydrazine | 3.19 g | C(C1=CC=CC=C1)(=O)NN | C7H8N2O
solvent | 1-butanol | 30 mL | C(CCC)O | C4H10O
product | 3,4-diphenyl-5-propyl-4H-1,2,4-triazole | yield: 28% | C1(=CC=CC=C1)C1=NN=C(N1C1=CC=CC=C1)CCC | C17H17N3
